US04128530
A 4-(nonylthio)phenol was prepared as follows. 63 Grams of 4-mercaptophenol and 5 grams of toluene sulfonic acid were heated to 60° C. Then 76 grams of nonene (approximately 55 percent 2,4-di-methyl-1-heptene) were added over a 38 minute period. The flask contents were neutralized with 5 grams of Na2CO3 in aqueous solution, decanted and stripped to a pot temperature of 180° C. at 26 millimeters of mercury. The product weighed 113 grams.

reactant | 4-mercaptophenol | SC1=CC=C(C=C1)O | C6H6OS
reactant | toluene sulfonic acid | 5 grams | C=1(C(=CC=CC1)S(=O)(=O)O)C | C7H8O3S
reactant | nonene | 76 grams | C=CCCCCCCC | C9H18
reactant | Na2CO3 | 5 grams | C(=O)([O-])[O-].[Na+].[Na+]
product | 4-(nonylthio)phenol | C(CCCCCCCC)SC1=CC=C(C=C1)O | C15H24OS
